US06972340B2
1,3-dihydroxy-2-naphthoic acid methyl ester
A mixture of 1,3-dihydroxynaphthalene (480 mg, 3.00 mmol) and potassium bicarbonate (750 mg, 7.5 mmol) in glycerol (1 mL) was heated under 1 atmosphere of CO2 to 115° C. for 5 hours then poured into 0.5M HCl (20 mL) and extracted with diethyl ether (3×5 mL). The combined ether layers were washed with brine (1×5 mL), dried (MgSO4) and filtered. This solution was then treated with a solution of diazomethane in diethyl ether until bubbling ceased. The ether was removed under reduced pressure and purified on silica gel eluting with 20% ethyl acetate/hexanes to provide (75 mg, 11%).

reactant | 1,3-dihydroxynaphthalene | 3.00 mmol, 480 mg | OC1=CC(=CC2=CC=CC=C12)O | C10H8O2
reactant | potassium bicarbonate | 7.5 mmol, 750 mg | C([O-])(O)=O.[K+]
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 0.5M, 20 mL | Cl | ClH
solvent | glycerol | 1 mL | OCC(O)CO | C3H8O3
product | 1,3-dihydroxy-2-naphthoic acid methyl ester | COC(=O)C1=C(C2=CC=CC=C2C=C1O)O | C12H10O4
